US06268354B1
A mixture of ethyl 4-(4-amino-2-methoxycarbonyl-phenoxy)butyrate (2.20 g), bis(2-chloroethyl)ether (0.915 ml, 7.81 mmol), potassium carbonate(3.24 g, 23.4 mmol), sodium iodide (2.34 g, 15.6 mmol) and DMF (20 ml) was stirred at 70° C. for 24 hours, and the mixture was concentrated under reduced pressure. To the residue was added water, and the mixture was extracted with ethyl acetate. The organic, layer was dried with anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified with column chromatography (silica gel 30 g, ethyl acetate/hexane=1/4), and the desired fraction was concentrated under reduced pressure to give ethyl 4-(2-methoxy-carbonyl-4-morpholinophenoxy)butyrate (2.18 g).

reactant | ethyl 4-(4-amino-2-methoxycarbonyl-phenoxy)butyrate | 2.20 g | NC1=CC(=C(OCCCC(=O)OCC)C=C1)C(=O)OC | C14H19NO5
reactant | bis(2-chloroethyl)ether | 7.81 mmol, 0.915 ml | ClCCOCCCl | C4H8Cl2O
reactant | potassium carbonate | 23.4 mmol, 3.24 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 15.6 mmol, 2.34 g | [I-].[Na+]
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
product | ethyl 4-(2-methoxy-carbonyl-4-morpholinophenoxy)butyrate | 2.18 g | COC1C(OCCCC(=O)OCC)=CC=C(C1=C=O)N1CCOCC1 | C18H25NO6
